US08912188B2
To a solution of methyl 3-[methyl(propan-2-yl)amino]-2-(1-phenyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylate (80 mg, 0.20 mmol) in methanol (25 ml) and chloroform (5 ml) was added sodium hydroxide (24 mg, 0.60 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated under vacuum, dissolved in water (15 ml), and the pH adjusted to 5 with HCl (3N) to give the precipitate, which was collected by filtration to afford 3-[methyl(propan-2-yl)amino]-2-(1-phenyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylic acid (56 mg, 73%).

reactant | methyl 3-[methyl(propan-2-yl)amino]-2-(1-phenyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylate | 0.20 mmol, 80 mg | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=NN(C1)C1=CC=CC=C1)C(C)C | C23H23N5O2
reactant | sodium hydroxide | 0.60 mmol, 24 mg | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[methyl(propan-2-yl)amino]-2-(1-phenyl-1H-pyrazol-4-yl)quinoxaline-6-carboxylic acid | 56 mg, 73% | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1C=NN(C1)C1=CC=CC=C1)C(C)C | C22H21N5O2
